US08242139B2
1-(4-bromo-2-fluorophenyl)cyclobutanol
A 100 mL 3-neck round bottom flask was charged with 4-bromo-2-fluoro-1-iodobenzene (1000 mg, 3.32 mmol) and diethyl ether (30 mL). The solution was cooled to −78°G, and n-butyllithium (1.329 mL, 3.32 mmol) was added dropwise, keeping the temperature below −68° C. After stirring for 15 min, cyclobutanone (0.249 mL, 3.32 mmol) was added dropwise, keeping temperature below −68° C. The solution was stirred at −78° C. for 15 min. The reaction was then quenched by the addition of saturated ammonium chloride (25 mL). The layers were separated, and the organic was washed with water (1×10 mL) and brine (1×10 mL). The organic layer was dried with anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2 gel), eluting with 3% ethyl-acetate/hexanes to give the desired product. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.55-1.69 (m, 1H), 1.91-2.05 (m, 1H), 2.19-2.28 (m, 2H), 2.46-2.55 (m, 2H), 5.59 (s, 1H), 7.33-7.40 (m, 2H), 7.44-7.48 (m, 2H).

reactant | 4-bromo-2-fluoro-1-iodobenzene | 3.32 mmol, 1000 mg | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | n-butyllithium | 3.32 mmol, 1.329 mL | C(CCC)[Li]
reactant | cyclobutanone | 3.32 mmol, 0.249 mL | C1(CCC1)=O | C4H6O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 1-(4-bromo-2-fluorophenyl)cyclobutanol | BrC1=CC(=C(C=C1)C1(CCC1)O)F | C10H10BrFO
